### ISSUE TITLE
a stab at lean4

### ISSUE THREAD

**Issue by jmikedupont2** [midspiral/LemmaScript#145]
Here is a draft lean4 stub for lemmascript
Formalized the LemmaScript "pi" context-compaction cut-point selector (the Dafny-verified case study in the uploaded `midspiral-pi-lemmascript` repo) in Lean 4, in a new file `RequestProject/Compaction.lean`. The full project builds with no `sorry`, no extra axioms (only `propext`, `Classical.choice`, `Quot.sound`), and no linter warnings.
What was modeled and proved (namespace `LemmaScript`):
Data model mirroring the Dafny datatypes: `Role`, `AgentMessage`, `SessionTreeEntry` (all 11 constructors kept), `CutPointResult`, and the predicates `isToolResultMessage`, `isTurnStarter`, `isMessage`, `isValidCutEntry`. A session history is modeled as a total index function `entries : ℕ → SessionTreeEntry`, and the opaque `estimateTokens` as an arbitrary parameter — both choices, and the dropped `< entries.length` conjunct, are documented in the file header.
The three selector methods were ported as Lean functions and their Dafny `ensures` clauses proved as theorems:
- `findValidCutPoints` + `findValidCutPoints_mem_range` (every returned index is in `[startIndex, endIndex)`) and `findValidCutPoints_not_toolResult` (no returned index is a tool-result message — the "no orphan at the cut" property).
- `findTurnStartIndex` + `findTurnStartIndex_spec` (a returned index is in range and is a genuine turn starter).
- `findCutPoint` (token-accumulation forward scan `forwardScan`, metadata backward snap `snapBackward`) with its three post-conditions:
  - `findCutPoint_firstKept_spec` — the chosen `firstKeptEntryIndex` is in range and not a tool-result message (the snap can't undo safety), or equals `startIndex` in the degenerate no-cut-point case;
  - `findCutPoint_noOrphan_spec` — under the explicit ordering precondition, no retained tool result is orphaned;
  - `findCutPoint_splitTurn_spec` — a split turn always names a real in-range turn boundary at or before the cut.
Supporting lemmas (`forwardScan_mem`, `snapBackward_le/_ge/_not_toolResult`, `firstCutGe_mem_or`, `not_toolResult_of_validCut`) were also proved. 

```
import Mathlib
/-!
# A Lean 4 formalization of the LemmaScript "pi" context-compaction cut-point selector
This file ports the Dafny-verified compaction cut-point selector from the
`midspiral/pi-lemmascript` case study to Lean 4, reproducing the three methods
of the selector and proving their `ensures` (post-condition) clauses.
When pi's context window fills, history is compacted: a cut point is chosen and
everything before it is discarded.  A provider API rejects a retained message
list whose kept prefix starts with an *orphaned* `toolResult` (a tool result
whose preceding tool-use turn was dropped).  The selector must therefore never
cut so that the kept suffix begins with a tool result, and never split a
tool-use / tool-result run.  These are exactly the properties proven below.
## Modeling choices
* A session history `seq<SessionTreeEntry>` is modeled as a *total* function
  `entries : ℕ → SessionTreeEntry`.  The Dafny code only ever accesses indices
  inside `[startIndex, endIndex)` and carries `endIndex ≤ |entries|` as a
  precondition purely to keep those accesses in bounds; with a total index
  function the bounds obligations vanish while the mathematical content is
  unchanged.  Consequently the `\result.turnStartIndex < entries.length`
  conjunct of the Dafny `findCutPoint` post-condition (a pure in-bounds fact)
  has no counterpart here.
* `SessionTreeEntry` keeps all eleven Dafny constructors, but their payloads —
  which the selector never inspects beyond a `message`'s `role` — are dropped.
* The opaque `estimateTokens` becomes an arbitrary parameter `estTok`; as in the
  Dafny proof, none of the safety properties depend on its value.
* The `-1` integer sentinel for "no turn start" becomes `Option.none`.
-/
open scoped BigOperators
namespace LemmaScript
/-- Message roles. Mirrors the Dafny `Role` enum. -/
inductive Role
  | bashExecution
  | custom
  | branchSummary
  | compactionSummary
  | user
  | assistant
  | toolResult
deriving DecidableEq
/-- A chat message, carrying only the field the selector reads. -/
structure AgentMessage where
  role : Role
deriving DecidableEq
/-- Session-tree entries.  All Dafny constructors are kept; irrelevant payloads
are dropped, except a `message` carries its `AgentMessage`. -/
inductive SessionTreeEntry
  | message (msg : AgentMessage)
  | thinkingLevelChange
  | modelChange
  | activeToolsChange
  | compaction
  | branchSummary
  | custom
  | customMessage
  | label
  | sessionInfo
  | leaf
/-- The result of `findCutPoint`. Mirrors the Dafny `CutPointResult`, with the
`-1` turn-start sentinel replaced by `Option.none`. -/
structure CutPointResult where
  firstKeptEntryIndex : ℕ
  turnStartIndex : Option ℕ
  isSplitTurn : Bool
/-- An entry is a tool-result message. -/
def isToolResultMessage : SessionTreeEntry → Bool
  | .message ⟨.toolResult⟩ => true
  | _ => false
/-- An entry starts a turn: a branch summary, a custom message, or a
`user`/`bashExecution` message. -/
def isTurnStarter : SessionTreeEntry → Bool
  | .branchSummary => true
  | .customMessage => true
  | .message ⟨.user⟩ => true
  | .message ⟨.bashExecution⟩ => true
  | _ => false
/-- An entry is a `message`. -/
def isMessage : SessionTreeEntry → Bool
  | .message _ => true
  | _ => false
/-- An entry is a *valid cut point*: a non-`toolResult` message, a branch
summary, or a custom message.  (This is exactly the set of indices pushed by the
`findValidCutPoints` switch + trailing `if`.) -/
def isValidCutEntry : SessionTreeEntry → Bool
  | .message ⟨.toolResult⟩ => false
  | .message _ => true
  | .branchSummary => true
  | .customMessage => true
  | _ => false
/-
A valid cut entry is never a tool-result message.
-/
theorem not_toolResult_of_validCut {e : SessionTreeEntry}
    (h : isValidCutEntry e = true) : isToolResultMessage e = false := by
  cases e <;> simp_all +decide [ isValidCutEntry ];
  rename_i msg; rcases msg with ⟨ _ | _ | _ | _ | _ | _ | _ ⟩ <;> tauto;
/-! ## `findValidCutPoints` -/
/-- Scan `entries[startIndex, endIndex)` and return the indices that are safe
places to start a retained suffix (in increasing order). -/
def findValidCutPoints (entries : ℕ → SessionTreeEntry) (startIndex endIndex : ℕ) : List ℕ :=
  (List.range' startIndex (endIndex - startIndex)).filter (fun i => isValidCutEntry (entries i))
/-
**In range.** Every returned index lies in `[startIndex, endIndex)`.
-/
theorem findValidCutPoints_mem_range (entries : ℕ → SessionTreeEntry) (startIndex endIndex : ℕ)
    {x : ℕ} (hx : x ∈ findValidCutPoints entries startIndex endIndex) :
    startIndex ≤ x ∧ x < endIndex := by
  unfold findValidCutPoints at hx;
  grind
/-
**No orphan at the cut.** No returned index points at a tool-result message,
so the retained suffix can never *begin* with an orphaned tool result.
-/
theorem findValidCutPoints_not_toolResult (entries : ℕ → SessionTreeEntry)
    (startIndex endIndex : ℕ) {x : ℕ}
    (hx : x ∈ findValidCutPoints entries startIndex endIndex) :
    isToolResultMessage (entries x) = false := by
  exact not_toolResult_of_validCut ( List.mem_filter.mp hx |>.2 )
/-! ## `findTurnStartIndex` -/
/-- Walk back from `entryIndex` to `startIndex` and return the first turn-start
entry, or `none` if there is none. -/
def findTurnStartIndex (entries : ℕ → SessionTreeEntry) (entryIndex startIndex : ℕ) : Option ℕ :=
  ((List.range' startIndex (entryIndex + 1 - startIndex)).reverse).find?
    (fun i => isTurnStarter (entries i))
/-
Post-condition of `findTurnStartIndex`: a returned index is in range and is a
genuine turn starter.
-/
theorem findTurnStartIndex_spec (entries : ℕ → SessionTreeEntry) (entryIndex startIndex : ℕ)
    {r : ℕ} (hr : findTurnStartIndex entries entryIndex startIndex = some r) :
    startIndex ≤ r ∧ r ≤ entryIndex ∧ isTurnStarter (entries r) = true := by
  have := List.find?_some hr;
  have := List.mem_of_find?_eq_some hr; simp_all +decide [ List.mem_reverse, List.mem_range' ] ;
  omega
/-! ## `findCutPoint` -/
/-- The first element of `cutPoints` that is `≥ i`, falling back to `dflt`.
Models the inner `for c` loop of `findCutPoint`. -/
def firstCutGe (cutPoints : List ℕ) (i dflt : ℕ) : ℕ :=
  (cutPoints.find? (fun c => decide (i ≤ c))).getD dflt
/-
`firstCutGe` returns either a member of `cutPoints` or the default.
-/
theorem firstCutGe_mem_or (cutPoints : List ℕ) (i dflt : ℕ) :
    firstCutGe cutPoints i dflt ∈ cutPoints ∨ firstCutGe cutPoints i dflt = dflt := by
  unfold firstCutGe;
  grind +suggestions
/-- One step of the backward token-accumulation scan of `findCutPoint`.
State is `(found cut index?, accumulated tokens)`. -/
def fwdStep (entries : ℕ → SessionTreeEntry) (estTok : AgentMessage → ℕ) (cutPoints : List ℕ)
    (dflt keepRecentTokens : ℕ) : (Option ℕ × ℕ) → ℕ → (Option ℕ × ℕ)
  | (some r, acc), _ => (some r, acc)
  | (none, acc), i =>
      match entries i with
      | .message msg =>
          let acc' := acc + estTok msg
          if keepRecentTokens ≤ acc' then (some (firstCutGe cutPoints i dflt), acc')
          else (none, acc')
      | _ => (none, acc)
/-- The forward token-accumulation scan: walk indices from `endIndex - 1` down to
`startIndex`, accumulating message tokens, and once the budget is reached snap to
the first cut point at or after the current index (else keep `cutPoints[0]`). -/
def forwardScan (entries : ℕ → SessionTreeEntry) (estTok : AgentMessage → ℕ)
    (cutPoints : List ℕ) (startIndex endIndex keepRecentTokens : ℕ) : ℕ :=
  let dflt := cutPoints.headD startIndex
  let indices := (List.range' startIndex (endIndex - startIndex)).reverse
  ((indices.foldl (fwdStep entries estTok cutPoints dflt keepRecentTokens) (none, 0)).1).getD dflt
/-
The chosen index of the forward scan is always one of the valid cut points.
-/
theorem forwardScan_mem (entries : ℕ → SessionTreeEntry) (estTok : AgentMessage → ℕ)
    (cutPoints : List ℕ) (startIndex endIndex keepRecentTokens : ℕ) (h : cutPoints ≠ []) :
    forwardScan entries estTok cutPoints startIndex endIndex keepRecentTokens ∈ cutPoints := by
  unfold forwardScan; simp +decide ;
  induction' ( List.range' startIndex ( endIndex - startIndex ) ) with x xs ih <;> simp +decide [ * ] at *;
  · cases cutPoints <;> aesop;
  · cases h : List.foldr ( fun x y => fwdStep entries estTok cutPoints ( cutPoints.head?.getD startIndex ) keepRecentTokens y x ) ( none, 0 ) xs ; simp +decide [ h ] at *;
    cases ‹Option ℕ› <;> simp_all +decide [ fwdStep ];
    cases h : entries x <;> simp_all +decide;
    exact Classical.not_not.1 fun h' => by have := firstCutGe_mem_or cutPoints x ( cutPoints.head?.getD startIndex ) ; aesop;
/-- The backward metadata snap: move the cut earlier while the preceding entry is
neither a `compaction` nor a `message`. -/
def snapBackward (entries : ℕ → SessionTreeEntry) (startIndex : ℕ) (cutIndex : ℕ) : ℕ :=
  if startIndex < cutIndex then
    match entries (cutIndex - 1) with
    | .compaction => cutIndex
    | .message _ => cutIndex
    | _ => snapBackward entries startIndex (cutIndex - 1)
  else cutIndex
termination_by cutIndex
decreasing_by omega
theorem snapBackward_le (entries : ℕ → SessionTreeEntry) (startIndex cutIndex : ℕ) :
    snapBackward entries startIndex cutIndex ≤ cutIndex := by
  induction' cutIndex using Nat.strong_induction_on with cutIndex ih;
  unfold snapBackward;
  rcases h : entries ( cutIndex - 1 ) with ( _ | _ | _ | _ | _ | _ | _ | _ | _ | _ | _ ) <;> simp_all +decide;
  all_goals split_ifs <;> [ exact le_trans ( ih _ ( Nat.sub_lt ( Nat.pos_of_ne_zero ( by aesop_cat ) ) zero_lt_one ) ) ( Nat.sub_le _ _ ) ; exact le_rfl ] ;
theorem snapBackward_ge (entries : ℕ → SessionTreeEntry) (startIndex cutIndex : ℕ)
    (h : startIndex ≤ cutIndex) :
    startIndex ≤ snapBackward entries startIndex cutIndex := by
  induction' n : cutIndex - startIndex using Nat.strong_induction_on with n ih generalizing startIndex cutIndex;
  unfold snapBackward;
  split_ifs;
  · rcases h : entries ( cutIndex - 1 ) with ( _ | _ | _ | _ | _ | _ | _ | _ | _ | _ | _ ) <;> simp_all +decide;
    all_goals exact ih _ ( by omega ) _ _ ( Nat.le_sub_one_of_lt ‹_› ) rfl;
  · linarith
/-
The backward snap can never land on a tool-result message: it only steps over
non-`message` entries, so it preserves the non-`toolResult` status of the cut.
-/
theorem snapBackward_not_toolResult (entries : ℕ → SessionTreeEntry) (startIndex cutIndex : ℕ)
    (h : isToolResultMessage (entries cutIndex) = false) :
    isToolResultMessage (entries (snapBackward entries startIndex cutIndex)) = false := by
  induction' n : cutIndex - startIndex using Nat.strong_induction_on with n ih generalizing startIndex cutIndex;
  unfold snapBackward;
  split_ifs;
  · rcases h : entries ( cutIndex - 1 ) with ( _ | _ | _ | _ | _ | _ | _ | _ | _ | _ | _ ) <;> simp_all +decide;
    all_goals exact ih _ ( by omega ) _ _ ( by aesop ) rfl;
  · assumption
/-- Whether the entry at index `i` is a `user` message. -/
def isUserMsg (entries : ℕ → SessionTreeEntry) (i : ℕ) : Bool :=
  match entries i with
  | .message ⟨.user⟩ => true
  | _ => false
/-- Walk back from the end accumulating an (opaque) token estimate until the
budget is reached, snap to the nearest valid cut point, then snap backward over
metadata entries; report the turn start when the cut splits a turn. -/
def findCutPoint (entries : ℕ → SessionTreeEntry) (estTok : AgentMessage → ℕ)
    (startIndex endIndex keepRecentTokens : ℕ) : CutPointResult :=
  let cutPoints := findValidCutPoints entries startIndex endIndex
  if cutPoints = [] then
    ⟨startIndex, none, false⟩
  else
    let c0 := forwardScan entries estTok cutPoints startIndex endIndex keepRecentTokens
    let cutIndex := snapBackward entries startIndex c0
    let isUser := isUserMsg entries cutIndex
    let tsi := findTurnStartIndex entries cutIndex startIndex
    let turnStartIndex := if isUser then none else tsi
    ⟨cutIndex, turnStartIndex, (!isUser) && turnStartIndex.isSome⟩
/-
**The snap can't undo safety.** `firstKeptEntryIndex` is in `[startIndex,
endIndex)` and is not a tool-result message — or, in the degenerate no-cut-point
case, equals `startIndex`.
-/
theorem findCutPoint_firstKept_spec (entries : ℕ → SessionTreeEntry) (estTok : AgentMessage → ℕ)
    (startIndex endIndex keepRecentTokens : ℕ) :
    ∀ r, r = findCutPoint entries estTok startIndex endIndex keepRecentTokens →
      (startIndex ≤ r.firstKeptEntryIndex ∧ r.firstKeptEntryIndex < endIndex ∧
        isToolResultMessage (entries r.firstKeptEntryIndex) = false)
      ∨ r.firstKeptEntryIndex = startIndex := by
  by_cases h : findValidCutPoints entries startIndex endIndex = [] <;> simp_all +decide [ findCutPoint ];
  refine' Or.inl ⟨ _, _, _ ⟩;
  · apply snapBackward_ge;
    have := forwardScan_mem entries estTok ( findValidCutPoints entries startIndex endIndex ) startIndex endIndex keepRecentTokens h; exact findValidCutPoints_mem_range entries startIndex endIndex this |>.1;
  · refine' lt_of_le_of_lt ( snapBackward_le _ _ _ ) _;
    exact findValidCutPoints_mem_range _ _ _ ( forwardScan_mem _ _ _ _ _ _ h ) |>.2;
  · apply snapBackward_not_toolResult;
    exact findValidCutPoints_not_toolResult _ _ _ ( forwardScan_mem _ _ _ _ _ _ h )
/-
**No retained `toolResult` is orphaned.** Under the ordering precondition
(within range, a tool result is immediately preceded by a message), every tool
result in the kept suffix has its preceding tool-use turn retained too.
-/
theorem findCutPoint_noOrphan_spec (entries : ℕ → SessionTreeEntry) (estTok : AgentMessage → ℕ)
    (startIndex endIndex keepRecentTokens : ℕ)
    (hpre : ∀ j, startIndex < j → j < endIndex → isToolResultMessage (entries j) = true →
      isMessage (entries (j - 1)) = true) :
    ∀ r, r = findCutPoint entries estTok startIndex endIndex keepRecentTokens →
      (∀ j, r.firstKeptEntryIndex ≤ j → j < endIndex → isToolResultMessage (entries j) = true →
        r.firstKeptEntryIndex ≤ j - 1 ∧ isMessage (entries (j - 1)) = true)
      ∨ r.firstKeptEntryIndex = startIndex := by
  intro r hr;
  -- If the cut index is not `startIndex`, then it must be in the valid cut points list.
  by_cases h_cut : r.firstKeptEntryIndex = startIndex;
  · exact Or.inr h_cut;
  · have h_cut_range : startIndex ≤ r.firstKeptEntryIndex ∧ r.firstKeptEntryIndex < endIndex ∧ isToolResultMessage (entries r.firstKeptEntryIndex) = false := by
      exact Or.resolve_right ( findCutPoint_firstKept_spec entries estTok startIndex endIndex keepRecentTokens r hr ) h_cut;
    grind
/-
**A split turn names a real boundary.** When the cut falls mid-turn, the
reported `turnStartIndex` is an in-range turn boundary at or before the cut.
-/
theorem findCutPoint_splitTurn_spec (entries : ℕ → SessionTreeEntry) (estTok : AgentMessage → ℕ)
    (startIndex endIndex keepRecentTokens : ℕ) :
    ∀ r, r = findCutPoint entries estTok startIndex endIndex keepRecentTokens →
      r.isSplitTurn = true →
        ∃ t, r.turnStartIndex = some t ∧ startIndex ≤ t ∧ t ≤ r.firstKeptEntryIndex ∧
          isTurnStarter (entries t) = true := by
  by_cases h : findValidCutPoints entries startIndex endIndex = [] <;> simp_all +decide [ findCutPoint ];
  exact fun h1 h2 => by obtain ⟨ t, ht ⟩ := Option.isSome_iff_exists.mp h2; exact ⟨ t, ht, findTurnStartIndex_spec _ _ _ ht |>.1, findTurnStartIndex_spec _ _ _ ht |>.2.1, findTurnStartIndex_spec _ _ _ ht |>.2.2 ⟩ ;
end LemmaScript
```

**Comment by namin** [comment]
Hi! Thanks for your interest. I updated https://github.com/midspiral/pi-lemmascript to also support the Lean backend in addition to the Dafny backend. The model (in Lean or Dafny) is mechanically derived from the TypeScript, and only the proofs (and possibly any auxiliary definitions) are LLM-generated.

Related commits:
https://github.com/midspiral/pi-lemmascript/commit/3c9a8a6f7a26cb2be879c20eddda23445378fc51
https://github.com/midspiral/pi-lemmascript/commit/aecdd25e139b2146575c5d620aa73e844f79c791

**Comment by namin** [comment]
Two more commits, and port is now complete:
https://github.com/midspiral/pi-lemmascript/commit/c483dd9cb9dc4f52b7dba8d10e85e35272e4e276
https://github.com/midspiral/pi-lemmascript/commit/5d063e55db7a7c85f23c2492ece5dfef4463731e

I am closing this, but feel free to continue the discussion.
